US07855201B2
Step 3: 8-Bromo-2,3,4,5-tetrahydro-1-benzoxepine
To a solution of 12.7 g (33 mmol) of 1,4-dibromo-2-(4-bromobutoxy)benzene in 220 mL of anhydrous tetrahydrofuran and 55 mL of hexane under nitrogen cooled in a dry ice/acetone bath was added dropwise 14.5 mL (36.3 mmol, 1.1 equiv) of 2.5M n-butyllithium in tetrahydrofuran, keeping the internal temperature <−70° C. The mixture was stirred with cooling for 30 minutes, then at ambient temperature. After 5 hours, 220 mL of water was added and the layers were separated. The aqueous layer was extracted with 2×160 mL of ether. The combined organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure to give 7.7 g of a yellow oil. Purification by flash chromatography (5-20% ethyl acetate in hexanes) gave the product as a yellow oil. MS (m+1)=228.1; 1H NMR (400 MHz, CDCl3) 7.15 (d, 1H, J 2 Hz), 7.09 (m, 1H), 6.99 (d, 1H, J 8 Hz), 4.01 (m, 2H), 2.76 (m, 2H), 1.96 (m, 2H), 1.71 (m, 2H).

reactant | 1,4-dibromo-2-(4-bromobutoxy)benzene | 33 mmol, 12.7 g | BrC1=C(C=C(C=C1)Br)OCCCCBr | C10H11Br3O
reactant | n-butyllithium | 36.3 mmol, 2.5M, 14.5 mL, 1.1 equiv | C(CCC)[Li]
reactant | water | 220 mL | O | H2O
solvent | tetrahydrofuran | 220 mL | O1CCCC1 | C4H8O
solvent | hexane | 55 mL | CCCCCC | C6H14
product | 8-Bromo-2,3,4,5-tetrahydro-1-benzoxepine | 7.7 g | BrC1=CC2=C(CCCCO2)C=C1 | C10H11BrO
